US04568741
Under dry nitrogen a solution of N-formyl piperidine (170 gm, 1.50 mol) in anhydrous diethyl ether (1.5 L), stirring rapidly at 5° C., is treated with gaseous phosgene (142 gm, 1.44 mol) over the course of 1.5 hours. Ice bath cooling is applied to maintain a temperature of less than 12° C. The resulting while solid is filtered off under dry nitrogen, in vacuum, to give 94.4% (228 gm, 1.36 mol) of N-(chloromethylene)-piperidinium chloride.

reactant | N-formyl piperidine | 1.50 mol, 170 gm | C(=O)N1CCCCC1 | C6H11NO
reactant | phosgene | 1.44 mol, 142 gm | C(=O)(Cl)Cl | CCl2O
solvent | diethyl ether | 1.5 L | C(C)OCC | C4H10O
product | N-(chloromethylene)-piperidinium chloride | 1.36 mol, 228 gm, 94.4% | [Cl-].ClC=[N+]1CCCCC1 | InChI=1S/C6H11ClN.ClH/c7-6-8-4-2-1-3-5-8;/h6H,1-5H2;1H/q+1;/p-1
